US04336264
1-(2,6-DICHLOROBENZOYL)-3-(5-(4-(TRIFLUOROMETHYL)PHENYL)-3-ISOXAZOLYL)UREA
5-(4-(Trifluoromethyl)phenyl)-3-aminoisoxazole (500 grams) in 6 l. 1,2-dichloromethane was reacted in a reaction vessel with 2,6-dichlorobenzoyl isocyanate (567 grams). The isocyanate was added in rapid dropwise fashion over one hour keeping the temperature between 20°-40° C. The reaction mixture was allowed to react at 40° C. for three hours and was then stripped and slurried in 1 l. methanol. A white solid product formed which was filtered, dried in an air dryer, and then identified by NMR analysis as the desired compound, yield, 881 grams, m.p.=227°-230° C.

reactant | 5-(4-(Trifluoromethyl)phenyl)-3-aminoisoxazole | 500 grams | FC(C1=CC=C(C=C1)C1=CC(=NO1)N)(F)F | C10H7F3N2O
reactant | 2,6-dichlorobenzoyl isocyanate | 567 grams | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
reactant | isocyanate | [N-]=C=O
solvent | methanol | CO | CH4O
product | 1-(2,6-DICHLOROBENZOYL)-3-(5-(4-(TRIFLUOROMETHYL)PHENYL)-3-ISOXAZOLYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NOC(=C2)C2=CC=C(C=C2)C(F)(F)F)C(=CC=C1)Cl | C18H10Cl2F3N3O3
